US05922771
2,2,2-Trifluoro-N-[4-(7-methoxy-3,4-dihydronaphthalen-1-yl)butyl]acetamide
Starting with 4-(7-methoxy-3,4-dihydronaphthalen-1-yl)butylamine and trifluoroacetic anhydride, the title compound was synthesized in otherwise the same manner as Example 1 (yield 97%; oil).

reactant | 4-(7-methoxy-3,4-dihydronaphthalen-1-yl)butylamine | COC1=CC=C2CCC=C(C2=C1)CCCCN | C15H21NO
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-[4-(7-methoxy-3,4-dihydronaphthalen-1-yl)butyl]acetamide | yield 97% | FC(C(=O)NCCCCC1=CCCC2=CC=C(C=C12)OC)(F)F | C17H20F3NO2
